US05932601
To a suspension of (5-ethoxycarbonylpentyl)triphenylphosphonium bromide (3.0 g) in tetrahydrofuran (THF) (70 ml) was added dropwise, in nitrogen streams at -30° C., a hexane solution of n-butyl lithium (1.6M, 3.9 ml). The mixture was stirred for 30 minutes at the same temperature, to which was added dropwise at -30° C. a solution of 3-methoxy-4-[5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde (1.0 g) in tetrahydrofuran (THF) (10 ml). The mixture was stirred for 4 hours at temperature ranging from 50 to 60° C. The reaction mixture was then poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), followed by distilling off the solvent under reduced pressure. The residue was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:4), was obtained ethyl 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptanoate (9.7 g, 85%) as an oily product.

reactant | (5-ethoxycarbonylpentyl)triphenylphosphonium bromide | 3.0 g | [Br-].C(C)OC(=O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6M, 3.9 ml | C(CCC)[Li]
reactant | 3-methoxy-4-[5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde | 1.0 g | COC=1C=C(C=O)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C19H17NO4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptanoate | 9.7 g, 85% | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCCC(=O)OCC | C27H33NO5
